US05539115
1.0 g of (-)-2-(4-(3-hydroxy-4,4,4-trifluoro-1-butenyl)phenyl)-5-decyloxypyrimidine was dissolved in 20 ml of pyridine. The solution was added with 0.5 g of butyryl chloride and stirred at 25°-30° C. for 4 hours. The reaction mixture was diluted with 100 ml of toluene and washed with 4N hydrochloric acid, water, a 5% sodium bicarbonate solution and water successively in that order, and then the toluene layer was concentrated under reduced pressure. The residue was purified by subjecting it to silica gel column chromatography using toluene/ethyl acetate as eluent to obtain 1.08 g of (+)-2-(4-(3-butyryloxy-4,4,4-trifluoro-1-butenyl)phenyl)-5-decyloxypyrimidine.

reactant | (-)-2-(4-(3-hydroxy-4,4,4-trifluoro-1-butenyl)phenyl)-5-decyloxypyrimidine | 1.0 g | OC(C=CC1=CC=C(C=C1)C1=NC=C(C=N1)OCCCCCCCCCC)C(F)(F)F | C24H31F3N2O2
reactant | butyryl chloride | 0.5 g | C(CCC)(=O)Cl | C4H7ClO
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (+)-2-(4-(3-butyryloxy-4,4,4-trifluoro-1-butenyl)phenyl)-5-decyloxypyrimidine | 1.08 g | C(CCC)(=O)OC(C=CC1=CC=C(C=C1)C1=NC=C(C=N1)OCCCCCCCCCC)C(F)(F)F | C28H37F3N2O3
